* BVMSim active QB imported as a circuit-level interface.
* The JJ model is supplied by circuits/models/jjmit.cir.

.subckt BQ_BVMSIM_V1 IN OUT BIAS

Lin IN 1 1.5p

L1 2 BIAS 2p
L2 BIAS 4 2p

BJs 1 2 jjmit area=3

BJ1 2 0 jjmit area=0.9
RJ1 2 0 11

BJ2 4 0 jjmit area=2
RJ2 4 0 4

L3 4 OUT 1.3p

.ends BQ_BVMSIM_V1
